US08138186B2
A mixture of 1-(3,4-dichlorophenyl)-3-(oxiran-2-ylmethoxy)-1H-pyrazole (0.23 g, 0.82 mmol), morpholine (72 mg, 0.82 mmol), potassium carbonate (0.34 g, 2.47 mmol) and sodium iodide (123 mg, 0.82 mmol) in dimethylformamide (6 ml) was refluxed 8 hrs and the solvent evaporated in vacuo. To the crude residue was added water and dichlorometane, the aqueous solution extracted several times with dichlorometane and the combined organic phases washed with water, dried over sodium sulphate, filtered and evaporated to dryness in vacuo. The crude dark oil obtained, 296 mg, was purified by column chromatography on silica gel (eluent: ethyl acetate/petroleum ether 1:1 to 1:0 and ethyl acetate/CH3OH 9:1) yielding 114 mg of 1-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)-3-morpholinopropan-2-ol.

reactant | 1-(3,4-dichlorophenyl)-3-(oxiran-2-ylmethoxy)-1H-pyrazole | 0.82 mmol, 0.23 g | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)OCC1OC1 | C12H10Cl2N2O2
reactant | morpholine | 0.82 mmol, 72 mg | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 2.47 mmol, 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.82 mmol, 123 mg | [I-].[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)-3-morpholinopropan-2-ol | 114 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)OCC(CN1CCOCC1)O | C16H19Cl2N3O3
